US07598397B2
Preparation of 4,5-dichloro-thiophene-2-sulfonic acid [(E)-3-(3-methyl-1H-indol-7-yl)-acryloyl]-amide (I-9).
(E)-3-(3-Methyl-1H-indol-7-yl)-acrylic acid (I-7) (1 mmol), 4-dimethyaminopyridine (DMAP, 2 mmol) and 1-[3-(dimethyamino)propyl]-3-ethylcarbodiimide hydrochloride (EDCI, 2 mmol) in CH2Cl2 (30 mL) was added 4,5-dichloro-thiophene-2-sulfonic acid amide (1.1 mmol). The reaction mixture was stirred at room temperature for 24-40 hr. Recation mixture was diluted with another 30 ml of dichloromethane and then acidified with 10% aqueous HCl solution until pH˜1-2 (pH stripes). Organic layers was washed with saturated brine, dried over anhydrous Na2SO4 and concentrated under reduced pressure to provide the crude product which was purified by flash chromatography (silica gel, CH2Cl2; CH2Cl2/EtOAc/hexane=1:10:20-1:20:10) to afford desired product, I-9. 1H-NMR (500 MHz, CDCl3) ESI M.S. gave (M−1): 436.4 with 88%.

reactant | (E)-3-(3-Methyl-1H-indol-7-yl)-acrylic acid | 1 mmol | CC1=CNC2=C(C=CC=C12)/C=C/C(=O)O | C12H11NO2
reactant | 1-[3-(dimethyamino)propyl]-3-ethylcarbodiimide hydrochloride | 2 mmol | Cl.CN(CCCN=C=NCC)C
reactant | 4,5-dichloro-thiophene-2-sulfonic acid amide | 1.1 mmol | ClC=1C=C(SC1Cl)S(=O)(=O)N | C4H3Cl2NO2S2
reactant | HCl | Cl | ClH
catalyst | 4-dimethyaminopyridine | 2 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4,5-dichloro-thiophene-2-sulfonic acid [(E)-3-(3-methyl-1H-indol-7-yl)-acryloyl]-amide | CC1=CNC2=C(C=CC=C12)/C=C/C(=O)NS(=O)(=O)C=1SC(=C(C1)Cl)Cl | C16H12Cl2N2O3S2
